Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Right sided numbness

 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Ms. ___ is a ___ yo right handed woman who presents for
evaluation of intermittant right sided sensory symptoms.  The
patient reports 2 months ago she woke up in the morning with the
entire right side of her body feeling numb, as if it has fallen
alseep.  The typical tingling/pin sensation never came and it
remained numb for nearly 6 hours.  She was at home and did not
feel terribly concerned by the symptoms.  Since that time,
similar episodes have occured only not as dramatic.  She is
unable to give a clear number of events as she was mostly
ignoring them beacuse they mostly occured at home.  Last week,
however, she was at work when she noticed the sudden onset of
numbness in her right hand and face along with a dull right 
sided
headache.  The symptoms were also accompianied by an inability 
to
hold her pen to write, and she felt unsteady when walking.  She
had a tight feeling in her throat.  These symptoms fightened her
to the point she sought medical attention at the hospital close
to her work (she lives in ___).  There she was 
evaluated
and the possible diagnosis of a TIA was given.  Head imaging (CT
per patient) was felt to be normal and she was sent home.

The patient is currently visiting her sister here in ___. 
This morning, she reported to he sister that her right face was
begining to fell numb at which time her sister encouraged her to
come to the emergency room.

Currently, the patient continues to have numbness over her lower
right jaw.  She endorses the right sided headache which has been
present for the last week without much relief.  She has denies
loss of vision, blurred vision, diplopia, dysarthria, dysphagia,
lightheadedness, vertigo.   She reports decreased hearing in her
right ear for several months as well as occasional ringing. She
states she occasionally mixes up her words and doesn't say what
she means to say (though she is often unaware unless told).  She
has no difficulties producing or comprehending speech. No bowel
or bladder incontinence or retention. Denied difficulty with
gait.
 
On general review of systems, the patient denied recent fever or
chills.  No night sweats or recent weight loss or gain. Denied
cough, shortness of breath.  Denied chest pain or tightness,
palpitations.  Denied nausea, vomiting, diarrhea, constipation 
or
abdominal pain.  No dysuria.  Denied arthralgias or myalgias.
Denied rash.

 
Past Medical History:
Migraines- has had "really" bad migraines over last ___ years. 
They can last anywhere from hours to days.  No sensory aura but
she knows when they are coming, can start in the back of her 
neck
or she may wake up with them in the morning.  +
phono/photophobia, + nausea. Throbbing type pain.  Takes advil,
icepacks with some relief.   They tend to cluster but on average
she as 1 every month.  She states she has not had one on nearly 
3
months.

 
Social History:
___
Family History:
Mother with ___ cancer
father with cirrhosis
Niece with possible MELAS, sister also with possible symptoms or
mitochondrial disorder?

 
Physical Exam:
98.8 60 140/89 RR 14 100% on RA
General: Awake, cooperative, NAD.Thin.
Head and Neck: no cranial abnormalities, no scleral icterus
noted, mmm, no lesions noted in oropharynx .  Right ear with
cerumen impaction.
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity 
Pulmonary: Lungs clear to auscultation bilaterally  
Cardiac: regular rate and rhythm, normal s1/s2. No murmurs, 
rubs,
or gallops appreciated.
Abdomen: soft, non-tender, normoactive bowel sounds, no masses 
or
organomegaly noted. 
Extremities: 2+ radial, DP pulses bilaterally. 
Skin: no rashes or lesions noted.
 
Neurologic: 
-Mental Status: Alert, oriented x 3.  Able to relate history
without difficulty.  Attentive.  Language is fluent with intact
repetition and comprehension.  Normal prosody.  There were no
paraphasic errors.  Pt. was able to name both high and low
frequency objects.  Able to read without difficulty.  Speech was
not dysarthric. The pt. had good knowledge of current events. 
There was no evidence of apraxia or neglect, calculations 
intact.
Registered ___ and recalled ___ at 5 minutes.
 
-Cranial Nerves: 
I: Olfaction not tested.  
II: PERRL 4 to 2mm and brisk.  Visual fields full on bedside
testing with red pin. Funduscopic exam revealed no papilledema,
exudates, or hemorrhages. 
III, IV, VI: EOMI without nystagmus.  Normal saccades. 
V: Facial sensation intact to light touch. 
VII: No facial droop, facial musculature symmetric. 
VIII: Hearing intact to finger-rub bilaterally.  
IX, X: Palate elevates symmetrically.  
XI: ___ strength in trapezii and sternocleidomastoid 
bilaterally.

XII: Tongue protrudes in midline.
 
-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. No rigidity. No adventitious movements, such as
tremors, noted. No asterixis. 
 
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___ 
L  5    ___   ___  5   5    5  5    5     5    5 
R  5    ___   ___  5   5    5  5    5     5    5 
 
-Sensory: No deficits to light touch, pinprick, cold sensation,
vibratory sense, proprioception throughout. No extinction to
double simultaneous stimuli.
 
-Deep tendon reflexes: 
    Bi Tri ___ Pat Ach 
L   2   2    2    2   2
R   2   2    2    2   2
Plantar response was flexor bilaterally. 
 
-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally. 
 
-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty. Romberg
absent.

 
Pertinent Results:
___ 07:55PM URINE  HOURS-RANDOM
___ 07:55PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 07:55PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 07:55PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG
___ 05:31PM   LACTATE-1.1
___ 05:20PM   ALT(SGPT)-47* AST(SGOT)-62* LD(LDH)-156 
CK(CPK)-144 TOT BILI-0.3
___ 05:20PM   CRP-3.7
___ 05:20PM   CRP-3.7
___ 05:20PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 05:20PM   SED RATE-45*
___ 01:40PM   GLUCOSE-76 UREA N-9 CREAT-0.7 SODIUM-139 
POTASSIUM-4.3 CHLORIDE-103 TOTAL CO2-27 ANION GAP-13
___ 01:40PM   estGFR-Using this
___ 01:40PM   cTropnT-<0.01
___ 01:40PM   WBC-11.4* RBC-5.06 HGB-13.6 HCT-40.7 MCV-80* 
MCH-26.9* MCHC-33.4 RDW-14.2
___ 01:40PM   NEUTS-43.6* LYMPHS-43.9* MONOS-7.0 EOS-3.9 
BASOS-1.6
___ 01:40PM   PLT COUNT-386
___ 01:40PM   ___ PTT-22.9 ___
 
Brief Hospital Course:
Ms. ___ is a ___ yo right handed woman with no past medical
history of hypertension and migraines with presents with
intermittant episodes of right sided numbness without clear
reports of weakness.  These events are not always associated 
with
headache, but the most recent symptoms have been.  She has a
strong history of migraine headaches, though they are a bit
different in quality from her current, dull, right sided
headache.  She has not had a typical migraine in several months
but has had these events in that time period.  It is possible
that these events are a migranious varient for this patient. 
That said, the patient does have a family history of possible
MELAS which raises the possibility ther her symptoms may be a
manifestation of this disorder.  The patient is currently
visiting from out of town and because of the inability to
expidite neurologic evaluation in ___, we will complete this work
up with imaging at this time.

upon further questioning patient described the "numbness" as a 
"pins and needles" sensation more consistant with positive 
symptoms that spread up her arm over the course of minutes.  
These symtpoms along with the headache appear most likely to the 
diagnosis of complicated migraines. 

Patient was instructed to start on verapamil for migraine 
prophylaxis and continue with tylenol and or over the counter 
motrin for her breakthrough headaches. She was instructed to 
follow up in the ___ for further follow 
up.  She was also given instructions to start with a migraine 
diary.  

Patient did have an MRI/A performed to rule out any vascular 
component to these symptoms.  Both studies were unreveiling.  On 
exam she also demonstrated some weakness in C4 and C7 and 
therefore a cervalgia component to the headaches an symptoms is 
also likely.  Patient was recommended a hard wheat pillow and a 
cervical soft collar to sleep with.   

MRI
IMPRESSION: No evidence of acute infarct. Minimal nonspecific 
foci of T2 
hyperintensity in the white matter. 
  
MRA HEAD: 
  
Head MRA demonstrates normal flow signal within the arteries of 
anterior and 
posterior circulation. No evidence of vascular occlusion, 
stenosis or an 
aneurysm greater than 3 mm in size seen. 
  
IMPRESSION: Normal MRA of the head. 
  
MRA NECK: 
  
Neck MRA demonstrates normal flow signal in the carotid and 
vertebral 
arteries. No evidence of stenosis or occlusion seen. 

 
Medications on Admission:
Aspirin 81 mg PO daily
 
Discharge Medications:
1. aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
2. verapamil 120 mg Tablet Sustained Release Sig: One (1) Tablet 
Sustained Release PO once a day: hold for SBP <100.
Disp:*90 Tablet Sustained Release(s)* Refills:*2*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Complex Migraine

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You presented with repeated episodes of right sided numbness and 
tingling sensation.  An MRI and MRA was which was unreveiling 
for any parenchymal or vascular abnormality.  Therefore, it 
appears likely that these symptoms are related to a complex 
migraine syndrome.  You were started on low dose verapamil to be 
taken in the morning for migraine prophylaxis.  As you blood 
pressure is low, if you begin to feel light headed you should 
stop taking the medication and notify your PCP. 

You were also found to have a weakness in your C5 and C7 
distribution.  This is most likely related to an underlying 
cervical cephalgia.  You were given a cervical soft collar and 
instructed to use a hard wheat pillow in correction of this.

You should follow up with Drs ___ for further 
follow up.
 
Followup Instructions:
___